US06812235B2
To a mixture of KOH (0.74 g) in DMSO(15 ml) were added benzyl 4-hydroxybenzoate(1.5 g) and 1-bromo-4-methylpentane(2.78 ml), then the mixture was refluxed for an hour. Then the reaction mixture was partitioned between a mixture of ethyl acetate and water. The separated organic layer was washed in turn water, 20% aqueous sodium carbonate solution and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of ethyl acetate and n-hexane (1:30) to give benzyl-4-isohexyloxybenzoate(1.18 g, 57.5%).

reactant | KOH | 0.74 g | [OH-].[K+]
reactant | benzyl 4-hydroxybenzoate | 1.5 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | 1-bromo-4-methylpentane | 2.78 ml | BrCCCC(C)C | C6H13Br
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | benzyl-4-isohexyloxybenzoate | 1.18 g, 57.5% | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)OCCCC(C)C)=O | C20H24O3
